US09120805B2
A solution of 52.4 mg (0.165 mmol) 1-[2-(4-tert-butyl-phenyl)-2-oxo-ethyl]-4-fluoro-1H-pyrrole-2-carboxylic acid methyl ester and 382 mg (4.95 mmol) ammonium acetate in 0.5 ml acetic acid is stirred for 18 hours at 110° C. The reaction mixture is allowed to cool to room temperature and excess water is added. The resulting precipitate is filtered off, washed with water and dried. It is chromatographed on a silica gel column with cyclohexane/ethyl acetate as eluent to give 3-(4-tert-butyl-phenyl)-7-fluoro-2H-pyrrolo[1,2-a]pyrazin-1-one as light brown crystals; HPLC/MS 2.88 min (B), [M+H] 285; 1H NMR (400 MHz, DMSO-d6) δ [ppm] 10.97 (s, 1H), 7.61 (s, 1H), 7.58 (d, J=8.5, 2H), 7.48 (m, 3H), 6.75 (d, J=1.6, 1H), 1.31 (s, 9H).

reactant | 1-[2-(4-tert-butyl-phenyl)-2-oxo-ethyl]-4-fluoro-1H-pyrrole-2-carboxylic acid methyl ester | 0.165 mmol, 52.4 mg | COC(=O)C=1N(C=C(C1)F)CC(=O)C1=CC=C(C=C1)C(C)(C)C | C18H20FNO3
reactant | ammonium acetate | 4.95 mmol, 382 mg | C(C)(=O)[O-].[NH4+]
reactant | water | O | H2O
solvent | acetic acid | 0.5 ml | C(C)(=O)O | C2H4O2
product | 3-(4-tert-butyl-phenyl)-7-fluoro-2H-pyrrolo[1,2-a]pyrazin-1-one | C(C)(C)(C)C1=CC=C(C=C1)C=1NC(C=2N(C1)C=C(C2)F)=O | C17H17FN2O
